US09278983B2
To a mixture of (2-chloro-6-nitro-4-trifluoromethylphenyl)-methylamine (3.70 g) and ethanol (60 ml), Raney® nickel (slurry in water, 0.5 ml) was added, and stirred under about 1 atm of hydrogen at room temperature for 1.5 hours. The reaction mixture was filtered. The filtrate was concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography to give 2.95 g of 3-chloro-N2-methyl-5-trifluoromethylbenzene-1,2-diamine.

reactant | (2-chloro-6-nitro-4-trifluoromethylphenyl)-methylamine | 3.70 g | ClC1=C(C(=CC(=C1)C(F)(F)F)[N+](=O)[O-])NC | C8H6ClF3N2O2
reactant | hydrogen | [H][H] | H2
catalyst | Raney® nickel | 0.5 ml | [Ni] | Ni
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 3-chloro-N2-methyl-5-trifluoromethylbenzene-1,2-diamine | 2.95 g | ClC1=C(C(=CC(=C1)C(F)(F)F)N)NC | C8H8ClF3N2
